US05559230
To 5-hydroxymethyl-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.40 g) are added acetic anhydride (4.0 ml) and pyridine (0.5 ml), and the mixture is stirred at room temperature for 5 hours. After completion of the reaction, the reaction solution is poured into ice-water and extracted with ethyl acetate. The extract is washed successively with diluted hydrochloric acid and saturated saline solution, and dried over magnesium sulfate. The solvent is distilled off and the resulting residue is recrystallized from ethyl acetate/n-hexane to give 5-acetyloxymethyl-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.43 g) as colorless needles, m.p. 155°-156° C.

reactant | 5-hydroxymethyl-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.40 g | OCC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C26H26N2O3
reactant | acetic anhydride | 4.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 5-acetyloxymethyl-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.43 g | C(C)(=O)OCC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C28H28N2O4
